Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right carotid body tumor
 
Major Surgical or Invasive Procedure:
Resection of right carotid body tumor

 
History of Present Illness:
Mr. ___ is a ___ year old male with known right carotid body 
tumor, followed for several years.  He complains of intermittent 
neck neck pain and right arm paresthesias.
Recent MRI indicated enlargement and thus
he presents for elective scheduled resection.  He denies focal 
motor weakness or numbness, transient monocular
blindness, or speech difficulties to suggest cerebrovascular
disease.

 
Past Medical History:
hypercholesterolemia, obesity, history of tobacco use, kidney 
problems, arthritis, anxiety and depression.

 
Social History:
___
Family History:
Non contributory.
 
Physical Exam:
141/86, 91, 18, 98% RA, 98.1po
General: Mr. ___ is a well developed male in no apparent 
distress.  He is seated comfortably on his hospital bed for this 
exam.
HEENT: Head is atraumatic, normocephalic.  Mucous membranes are 
moist.  Sclerae are anicteric.  Neck is supple.  Right neck 
incision is well approximated with dermabond.  The site is not 
tense.  There is no tenderness, erythema, drainage, foul odor, 
ecchymosis or fluctuance.  
UPPER EXTREMITIES:  Right upper extremity is warm and well 
perfused with brisk capillary refill and easily palpable radial 
and ulnar pulses.  There is no edema.  Left upper extremity is 
warm with palpable radial and ulnar pulses and brisk capillary 
refill.  There is no edema.
RESPIRATORY: Respiratory effort is unlabored.  No wheezes, rales 
or rhonchi.  
CARDIAC: Normal S1-S2.  No clicks, rubs or gallops
ABDOMEN: Soft, non tender.
LOWER EXTREMITIES: Warm and well perfused with easily palpable 
pedal and ankle pulses.  Skin is clean, dry, intact. Capillary 
refill is brisk.
 
Pertinent Results:
___ 06:00AM BLOOD WBC-11.3* RBC-4.19* Hgb-12.7* Hct-39.4* 
MCV-94 MCH-30.3 MCHC-32.2 RDW-12.6 RDWSD-43.1 Plt ___
___ 06:00AM BLOOD Glucose-115* UreaN-12 Creat-0.9 Na-136 
K-3.8 Cl-101 HCO3-24 AnGap-15
 
Brief Hospital Course:
The patient presented as a same day admission for surgery.  He 
was taken to the operating room and underwent resection of right 
carotid body tumor.  He tolerated the procedure well. He was 
taken from the OR to the PACU in stable condition and after 
satisfactory recovery from anesthesia was transferred to the 
floor. The patient was initially given IV fluids and IV pain 
medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given ___ 
antibiotics per routine. His home medications were continued 
throughout this hospitalization. The ___ hospital course 
was otherwise solely remarkable for some transient hypertension 
controlled with PO labetelol.  He remained on PO labetolol for 
the remainder of his hospitalization and tolerated this well.  
His neuro exam remained stable.  His neck pain remained well 
controlled.

At the time of discharge, his pain was well controlled with oral 
medications, incision was clean/dry/intact, and the patient was 
voiding spontaneously.  A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed good 
understanding of teaching.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lithium Carbonate 600 mg PO QHS 
2. Lithium Carbonate 300 mg PO QAM 
3. RisperiDONE 2 mg PO QHS 
4. TraZODone 100 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1. Lithium Carbonate 600 mg PO QHS 
2. RisperiDONE 2 mg PO QHS 
3. TraZODone 100 mg PO QHS:PRN insomnia 
4. Acetaminophen 1000 mg PO Q8H:PRN pain 
RX *acetaminophen [Mapap (acetaminophen)] 500 mg 2 capsule(s) by 
mouth every 8 hours Disp #*46 Capsule Refills:*0
5. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*11
6. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
Use sparingly.  DO NOT DRIVE. 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4hrs Disp #*15 Tablet 
Refills:*0
7. Lithium Carbonate 300 mg PO QAM 
8. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*6
9. Labetalol 100 mg PO BID 
RX *labetalol 100 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Resection of right carotid body tumor

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ and 
underwent a resection of a right carotid body tumor. You have 
now recovered from surgery and are ready to be discharged. 
Please follow the instructions below to continue your recovery:

WHAT TO EXPECT:

1. Surgical Incision: 
• It is normal to have some swelling and feel a firm ridge along 
the incision 
• Your incision may be slightly red and raised, it may feel 
irritated from the staples 
 2. You may have a sore throat and/or mild hoarseness 
• Try warm tea, throat lozenges or cool/cold beverages  
 3. You may have a mild headache, especially on the side of your 
surgery 
• Try ibuprofen, acetaminophen, or your discharge pain 
medication 
• If headache worsens, is associated with visual changes or 
lasts longer than 2 hours- call vascular surgeon’s office 
 4. It is normal to feel tired, this will last for ___ weeks  
• You should get up out of bed every day and gradually increase 
your activity each day  
• You may walk and you may go up and down stairs  
• Increase your activities as you can tolerate- do not do too 
much right away! 
 5. It is normal to have a decreased appetite, your appetite 
will return with time  
• You will probably lose your taste for food and lose some 
weight  
• Eat small frequent meals 
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION: 
• Take all of your medications as prescribed in your discharge 

 
 ACTIVITIES:

• No driving until post-op visit and you are no longer taking 
pain medications 
• No excessive head turning, lifting, pushing or pulling 
(greater than 5 lbs) until your post op visit 
• You may shower (no direct spray on incision, let the soapy 
water run over incision, rinse and pat dry) 
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area

CALL THE OFFICE FOR: ___

• Changes in vision (loss of vision, blurring, double vision, 
half vision) 
• Slurring of speech or difficulty finding correct words to use 
• Severe headache or worsening headache not controlled by pain 
medication 
• A sudden change in the ability to move or use your arm or leg 
or the ability to feel your arm or leg 
• Trouble swallowing, breathing, or talking 
• Temperature greater than 101.5F for 24 hours 
• Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions

 
Followup Instructions:
___